US05324747
A mixture of 1.0 g (1.92 mol) of N-(2-methoxy-2-oxoethyl)-N-[3-hydroxy-5-(octadecyloxy)phenyl]glycine methyl ester, 0.59 g (2.01 mmol) of 3-(3-bromopropoxy)bromobenzene, 0.53 g (3.83 mmol) of potassium carbonate and 0.29 g (1.92 mmol) of sodium iodide in 30 ml of acetone and 6 ml of DMF was stirred at reflux under argon for 65 hours. The solvents were removed at reduced pressure and the residue was treated with methylene chloride and filtered. The filtrate was concentrated and crystallized from methylene chloride-methanol to give 0.99 g (70%, mp 48°-50°) of N-(2-methoxy-2-oxoethyl)-N-[3-[3-(3-bromophenoxy)propoxy]-5-(octadecyloxy)phenyl]glycine methyl ester.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3-hydroxy-5-(octadecyloxy)phenyl]glycine methyl ester | 1.92 mol, 1.0 g | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)CC(=O)OC)=O | C30H51NO6
reactant | 3-(3-bromopropoxy)bromobenzene | 2.01 mmol, 0.59 g | BrCCCOC=1C=C(C=CC1)Br | C9H10Br2O
reactant | potassium carbonate | 3.83 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.92 mmol, 0.29 g | [I-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | N-(2-methoxy-2-oxoethyl)-N-[3-[3-(3-bromophenoxy)propoxy]-5-(octadecyloxy)phenyl]glycine methyl ester | 0.99 g, 70% | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC(=CC=C1)Br)CC(=O)OC)=O | C39H60BrNO7
